US05559230
5-Azido-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.63 g) is dissolved in ethanol and thereto is added 10% Pd-C (0.1 g). The mixture is subjected to catalytic hydrogenation at room temperature under 1 atm. of hydrogen. Pd-C is removed by filtration and the filtrate is evaporated. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=50:1), and recrystallized from diethyl ether to give 5-amino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.34 g) as white powder, m.p. 198.5°-199.5° C.

reactant | 5-Azido-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.63 g | N(=[N+]=[N-])C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H23N5O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd-C | 0.1 g | [Pd] | Pd
product | 5-amino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.34 g | NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H25N3O2
